US06469005B1
To a stirred solution of 906 mg of 2-(3-methoxy-4-but-2-ynyloxy-phenyl)-ethylamine hydrochloride and 2.75 ml N-ethyldiisopropylamine are subsequently added 752 mg 2-(4-chlorophenyl)-2-hydroxy propionic acid and 1.875 g benzotriazole-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate. The resulting clear solution is stirred over night, extracted with ethyl acetate. The extracts are washed several times with water, dried over sodium sulfate, filtered and evaporated. The resulting oily residue is purified on silicagel (hexanc ethyl acetate) to obtain the 2-(4-chlorophenyl)-2-hydroxy-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]propionamide.

reactant | 2-(3-methoxy-4-but-2-ynyloxy-phenyl)-ethylamine hydrochloride | 906 mg | Cl.COC=1C=C(C=CC1OCC#CC)CCN
reactant | N-ethyldiisopropylamine | 2.75 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-(4-chlorophenyl)-2-hydroxy propionic acid | 752 mg | ClC1=CC=C(C=C1)C(C(=O)O)(C)O | C9H9ClO3
reactant | benzotriazole-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 1.875 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
product | 2-(4-chlorophenyl)-2-hydroxy-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]propionamide | ClC1=CC=C(C=C1)C(C(=O)NCCC1=CC(=C(C=C1)OCC#C)OC)(C)O | C21H22ClNO4
